US08802664B2
A mixture of 1H-benzimidazol-2-yl(3-bromophenyl)methanol (12.9 g), 4-hydroxy-1-methylpiperidine (4.86 g) and para-toluenesulfonic acid (24 g) in chlorobenzene (60 mL) and N-methylpyrrolidone (6 mL) is heated under reflux for 120 h in a Dean Stark apparatus. Solvent is removed by evaporation. To the residue is added water which is made alcaline by addition of sodium hydroxyde solution, then extracted with ethyl acetate. The pooled organic extracts are washed with water, treated with activated charcoal, dried over magnesium sulfate and concentrated under reduced pressure. The residue is triturated in diethyl ether to give 2-[(3-bromophenyl)(1-methylpiperidin-4-yloxy)methyl]-1H-benzimidazole.

reactant | 1H-benzimidazol-2-yl(3-bromophenyl)methanol | 12.9 g | N1C(=NC2=C1C=CC=C2)C(O)C2=CC(=CC=C2)Br | C14H11BrN2O
reactant | 4-hydroxy-1-methylpiperidine | 4.86 g | OC1CCN(CC1)C | C6H13NO
reactant | para-toluenesulfonic acid | 24 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | chlorobenzene | 60 mL | ClC1=CC=CC=C1 | C6H5Cl
solvent | N-methylpyrrolidone | 6 mL | CN1C(CCC1)=O | C5H9NO
product | 2-[(3-bromophenyl)(1-methylpiperidin-4-yloxy)methyl]-1H-benzimidazole | BrC=1C=C(C=CC1)C(C1=NC2=C(N1)C=CC=C2)OC2CCN(CC2)C | C20H22BrN3O
